US06852749B1
Preparation of 4-Methoxyazobenzene
A mixture of 4-phenylazophenol (9.9 g; 50 mmol), iodomethane (7.1 g; 50 mmol), potassium carbonate (6.9 g; 50 mmol), and acetone (100 ml) was refluxed 48 h. After evaporating off the solvent, the residue was dissolved in water (25 ml), diethyl ether (50 ml) and THF (30 ml). The aqueous layer was extracted with ether (3×20 ml) and the combined organic solutions were washed with saturated NaCl solution (1×20 ml) and dried (MgSO4). After filtration and evaporation, the residue was recrystallized from 96% ethanol to give 8.7 g (82%).

reactant | 4-phenylazophenol | 50 mmol, 9.9 g | C=1C=CC(=CC1)N=NC=2C=CC(=CC2)O | C12H10N2O
reactant | iodomethane | 50 mmol, 7.1 g | IC | CH3I
reactant | potassium carbonate | 50 mmol, 6.9 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 4-Methoxyazobenzene | COC1=CC=C(C=C1)N=NC1=CC=CC=C1 | C13H12N2O
